US08664258B2
Preparation of trichloromethyl 2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate
N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride (80.0 mg, 198 μmol), triethylamine (277 μl, 10 eq) and triphosgene (64.8 mg, 1.1 eq) were dissolved in 5 mL of dichloromethane and stirred under reflux for 5 mins. The solvent was removed under vacuum and 4 mL of ethyl acetate was added. It was divided in two and used immediately in the preparation of compound 5 and 7 without purification. LCMS m/z (%)=528 (M+H, 100).

reactant | N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride | 198 μmol, 80.0 mg | Cl.NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C1=CC=NN1C
reactant | triethylamine | 277 μl, 10 eq | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 64.8 mg, 1.1 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | trichloromethyl 2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | COC=1C=C(C(=O)NC2=CC(=C(OCCNC(OC(Cl)(Cl)Cl)=O)C=C2)C2=CC=NN2C)C=CC1 | C22H21Cl3N4O5
